US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2-fluoro-4-iodoaniline to yield 2-[(2-fluoro-4-iodophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2-fluoro-4-iodoaniline | FC1=C(N)C=CC(=C1)I | C6H5FIN
product | 2-[(2-fluoro-4-iodophenyl)amino]phenylacetic acid | FC1=C(C=CC(=C1)I)NC1=C(C=CC=C1)CC(=O)O | C14H11FINO2
